US07049438B2
Using an analogous procedure to that described in Example 12, 4-(2,4-dichloro-5-methoxyanilino)-7-hydroxy-5-tetrahydropyran-4-yloxyquinazoline (0.109 g) was reacted with 1-tert-butoxycarbonyl-4-(3-hydroxypropyl)piperazine (0.074 g) to give 4-(2,4-dichloro-5-methoxyanilino)-7-[3-(4-tert-butoxycarbonylpiperazin-1-yl)propoxy]-5-tetrahydropyran-4-yloxyquinazoline (0.12 g).

reactant | 4-(2,4-dichloro-5-methoxyanilino)-7-hydroxy-5-tetrahydropyran-4-yloxyquinazoline | 0.109 g | ClC1=C(NC2=NC=NC3=CC(=CC(=C23)OC2CCOCC2)O)C=C(C(=C1)Cl)OC | C20H19Cl2N3O4
reactant | 1-tert-butoxycarbonyl-4-(3-hydroxypropyl)piperazine | 0.074 g | C(C)(C)(C)OC(=O)N1CCN(CC1)CCCO | C12H24N2O3
product | 4-(2,4-dichloro-5-methoxyanilino)-7-[3-(4-tert-butoxycarbonylpiperazin-1-yl)propoxy]-5-tetrahydropyran-4-yloxyquinazoline | 0.12 g | ClC1=C(NC2=NC=NC3=CC(=CC(=C23)OC2CCOCC2)OCCCN2CCN(CC2)C(=O)OC(C)(C)C)C=C(C(=C1)Cl)OC | C32H41Cl2N5O6
